US04743685
(C) N-(Triphenylmethyl)piperazine-2,3-dione
A mixture of 2,3-piperazinedione (11.4 g, 100 mmol), bistrimethylsilylacetamide (55.7 g, 270 mmol) and 150 ml of acetonitrile was heated under reflux for one hour. Within 30 minutes, triphenylmethylchloride (22.2 g, 80 mmol) was added dropwise and the mixture was again refluxed for two hours. After stirring overnight at room temperature, 21.6 ml of water was added to the clear solution. The resulting precipitate (3.13 g) was filtered off and the filtrate concentrated in vacuo. The residue was triturated with water and dried to yield 25.5 g of crude title compound which was recrystallized from ethanol. Yield of pure product: 12.19 g, melting point 230°-235° C.

reactant | 2,3-piperazinedione | 100 mmol, 11.4 g | N1C(C(NCC1)=O)=O | C4H6N2O2
reactant | bistrimethylsilylacetamide | 270 mmol, 55.7 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | acetonitrile | 150 ml | C(C)#N | C2H3N
reactant | triphenylmethylchloride | 80 mmol, 22.2 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | water | 21.6 ml | O | H2O
product | N-(Triphenylmethyl)piperazine-2,3-dione | 25.5 g | C1(=CC=CC=C1)C(N1C(C(NCC1)=O)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2O2
